US04374137
2'-(N,S-Dimethylthiocarbamyl)spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] hydroiodide
A solution of 2'(N-methylthiocarbamyl)spiro[benzofuran-2(3H), 4'(2'H)-isoquinoline] (5.9 g) and iodomethane (4.1 g) in ethanol (45 ml) and methanol (100 ml) is heated under reflux overnight. Removal of the solvents yields a solid (8.1 g). The solid (1.0 g) is twice recrystallized from ethyl acetate/methanol to yield 0.6 g (60%) of product as crystals, mp 181°-182°.

reactant | 2'(N-methylthiocarbamyl)spiro[benzofuran-2(3H), 4'(2'H)-isoquinoline] | 5.9 g | CNC(=S)N1CC2=CC=CC=C2C2(C1)OC1=C(C2)C=CC=C1 | C18H18N2OS
reactant | iodomethane | 4.1 g | IC | CH3I
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | methanol | 100 ml | CO | CH4O
product | 2'-(N,S-Dimethylthiocarbamyl)spiro[benzofuran-2(3H),4'(2'H)-isoquinoline] hydroiodide | 8.1 g | I.CNC(=SC)N1CC2=CC=CC=C2C2(C1)OC1=C(C2)C=CC=C1 | InChI=1S/C19H22N2OS.HI/c1-20-18(23-2)21-12-15-8-3-5-9-16(15)19(13-21)11-14-7-4-6-10-17(14)22-19;/h3-10,20,23H,11-13H2,1-2H3;1H
